*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.003/0.003


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_2000_4666
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_666_666 0 717.824
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 717.824
cd_0_0_0_0 nd_1_0_666_666_ci 0 2.7862e-12
rdload_0_0_0_1 nd_1_0_2000_666 0 41.4823
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 41.4823
cd_0_0_0_1 nd_1_0_2000_666_ci 0 4.82133e-11
rdload_0_0_0_2 nd_1_0_3333_666 0 37.5369
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 37.5369
cd_0_0_0_2 nd_1_0_3333_666_ci 0 5.3281e-11
rdload_0_0_0_3 nd_1_0_4666_666 0 34.4037
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 34.4037
cd_0_0_0_3 nd_1_0_4666_666_ci 0 5.81332e-11
rdload_0_0_0_4 nd_1_0_6000_666 0 65.1208
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 65.1208
cd_0_0_0_4 nd_1_0_6000_666_ci 0 3.07121e-11
rdload_0_0_0_5 nd_1_0_7333_666 0 518.739
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 518.739
cd_0_0_0_5 nd_1_0_7333_666_ci 0 3.85551e-12
rdload_0_0_0_6 nd_1_0_8666_666 0 225.21
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 225.21
cd_0_0_0_6 nd_1_0_8666_666_ci 0 8.88058e-12
rdload_0_0_0_7 nd_1_0_666_2000 0 36.8373
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 36.8373
cd_0_0_0_7 nd_1_0_666_2000_ci 0 5.42927e-11
rdload_0_0_0_8 nd_1_0_2000_2000 0 73.0394
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 73.0394
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 2.73825e-11
rdload_0_0_0_9 nd_1_0_3333_2000 0 9524.72
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 9524.72
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 2.0998e-13
rdload_0_0_0_10 nd_1_0_4666_2000 0 54.0535
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 54.0535
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 3.70003e-11
rdload_0_0_0_11 nd_1_0_6000_2000 0 203.096
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 203.096
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 9.84758e-12
rdload_0_0_0_12 nd_1_0_7333_2000 0 85.3701
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 85.3701
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 2.34274e-11
rdload_0_0_0_13 nd_1_0_8666_2000 0 33.2463
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 33.2463
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 6.01572e-11
rdload_0_0_0_14 nd_1_0_666_3333 0 1406.24
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 1406.24
cd_0_0_0_14 nd_1_0_666_3333_ci 0 1.42224e-12
rdload_0_0_0_15 nd_1_0_2000_3333 0 322.982
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 322.982
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 6.1923e-12
rdload_0_0_0_16 nd_1_0_3333_3333 0 46.6749
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 46.6749
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 4.28496e-11
rdload_0_0_0_17 nd_1_0_4666_3333 0 81.1193
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 81.1193
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 2.46551e-11
rdload_0_0_0_18 nd_1_0_6000_3333 0 32.5058
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 32.5058
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 6.15275e-11
rdload_0_0_0_19 nd_1_0_7333_3333 0 58.3793
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 58.3793
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 3.42587e-11
rdload_0_0_0_20 nd_1_0_8666_3333 0 50.9718
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 50.9718
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 3.92374e-11
rdload_0_0_0_21 nd_1_0_666_4666 0 45.2664
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 45.2664
cd_0_0_0_21 nd_1_0_666_4666_ci 0 4.41828e-11
rdload_0_0_0_22 nd_1_0_2000_4666 0 76.594
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 76.594
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 2.61117e-11
rdload_0_0_0_23 nd_1_0_3333_4666 0 65.4737
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 65.4737
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 3.05466e-11
rdload_0_0_0_24 nd_1_0_4666_4666 0 56.5536
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 56.5536
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 3.53647e-11
rdload_0_0_0_25 nd_1_0_6000_4666 0 241.384
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 241.384
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 8.28557e-12
rdload_0_0_0_26 nd_1_0_7333_4666 0 153.662
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 153.662
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 1.30156e-11
rdload_0_0_0_27 nd_1_0_8666_4666 0 33.9961
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 33.9961
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 5.88302e-11
rdload_0_0_0_28 nd_1_0_666_6000 0 62.8741
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 62.8741
cd_0_0_0_28 nd_1_0_666_6000_ci 0 3.18096e-11
rdload_0_0_0_29 nd_1_0_2000_6000 0 427.968
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 427.968
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 4.67325e-12
rdload_0_0_0_30 nd_1_0_3333_6000 0 48.8272
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 48.8272
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 4.09608e-11
rdload_0_0_0_31 nd_1_0_4666_6000 0 139.115
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 139.115
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 1.43766e-11
rdload_0_0_0_32 nd_1_0_6000_6000 0 104.897
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 104.897
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 1.90663e-11
rdload_0_0_0_33 nd_1_0_7333_6000 0 2434.32
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 2434.32
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 8.21584e-13
rdload_0_0_0_34 nd_1_0_8666_6000 0 331.604
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 331.604
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 6.03129e-12
rdload_0_0_0_35 nd_1_0_666_7333 0 193.54
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 193.54
cd_0_0_0_35 nd_1_0_666_7333_ci 0 1.03338e-11
rdload_0_0_0_36 nd_1_0_2000_7333 0 130.782
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 130.782
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 1.52926e-11
rdload_0_0_0_37 nd_1_0_3333_7333 0 98.6028
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 98.6028
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 2.02834e-11
rdload_0_0_0_38 nd_1_0_4666_7333 0 58.4863
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 58.4863
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 3.4196e-11
rdload_0_0_0_39 nd_1_0_6000_7333 0 302.87
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 302.87
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 6.60349e-12
rdload_0_0_0_40 nd_1_0_7333_7333 0 169.078
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 169.078
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 1.18289e-11
rdload_0_0_0_41 nd_1_0_8666_7333 0 41.4595
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 41.4595
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 4.82398e-11
rdload_0_0_0_42 nd_1_0_666_8666 0 37.6903
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 37.6903
cd_0_0_0_42 nd_1_0_666_8666_ci 0 5.30641e-11
rdload_0_0_0_43 nd_1_0_2000_8666 0 57.0401
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 57.0401
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 3.50631e-11
rdload_0_0_0_44 nd_1_0_3333_8666 0 50.0709
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 50.0709
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 3.99434e-11
rdload_0_0_0_45 nd_1_0_4666_8666 0 44.7614
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 44.7614
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 4.46814e-11
rdload_0_0_0_46 nd_1_0_6000_8666 0 40.4079
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 40.4079
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 4.94953e-11
rdload_0_0_0_47 nd_1_0_7333_8666 0 89.6247
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 89.6247
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 2.23153e-11
rdload_0_0_0_48 nd_1_0_8666_8666 0 466.71
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 466.71
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 4.28532e-12

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val153'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val154'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val155'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val156'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val157'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val158'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val159'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val160'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val161'
rd_add0 nd0 0 'esr32'
rd_add1 nd1 0 'esr33'
rd_add2 nd2 0 'esr34'
rd_add3 nd3 0 'esr35'
rd_add4 nd4 0 'esr36'
rd_add5 nd5 0 'esr37'
rd_add6 nd6 0 'esr38'
rd_add7 nd7 0 'esr39'
rd_add8 nd8 0 'esr40'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'




*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_666_2000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_666_3333  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_666_6000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_666_7333  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_666_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_3333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_2000_4666  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_2000_6000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_2000_8666  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3333_2000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3333_3333  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3333_6000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_3333_7333  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_3333_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3333_666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3333_3333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3333_4666  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3333_6000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3333_8666  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4666_2000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4666_3333  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4666_6000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4666_7333  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4666_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6000_666  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6000_3333  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_6000_4666  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_6000_6000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_6000_8666  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_2000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_3333  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6000_6000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6000_7333  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6000_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7333_666  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7333_3333  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7333_4666  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7333_6000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7333_8666  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8666_2000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8666_3333  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8666_6000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8666_7333  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8666_8666  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_8666_666  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_8666_3333  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_8666_4666  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_8666_6000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_8666_8666  0.001

.ends chiplet5
