*-- pkg subckt model
.subckt pkg_model in out
*rs in middle1 10m	initial liuyu
rs in middle1 10m
*rs in middle1 1m
*ls middle1 out 10p	initial 
ls middle1 out 1.4p

*-- pkg decap
*rp middle1 middle2 1m	   initial
rp middle1 middle2 10m	
lp middle2 middle3 2.3p
cp middle3 0 6.25e-9	
*cp middle3 0 1.6e-08
*cp middle3 0 1.6p	good choice,next line is test data
*cp middle3 0 6.25n	
.ends pkg_model
