*-- chiplet ubump (to interposer) subckt model
.subckt ubump_subckt ubump pad
*+ rval=2e-3 lval=3e-12 cval=1e-11
*.param ubump_rval = 0.01
*.param ubump_lval = 0
*initial rval=0.2m
**.param ubump_rval = 0.2e-3
.param ubump_lval = 2.7e-12

.param ubump_rval = 0.2e-3
**.param ubump_lval = 2e-12
rpad ubump mid 'ubump_rval'
lpad mid pad 'ubump_lval'
*cpad mid 0 'ubump_cval'
.ends ubump_subckt
